US07678794B2
Synthesis of 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-benzoylamino]-benzoic acid
Add 1N lithium hydroxide (30 mL) to a solution of 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-benzoylamino]-benzoic acid methyl ester (4.00 g, 8.67 mmol) in tetrahydrofuran (40 mL). Stir overnight at room temperature and then dilute with water. Acidify the resulting mixture (the salt precipitated) with 1N hydrochloric acid. Concentrate to remove the organic solvents, filter and wash with water several times, then with hexanes. Dry to afford the title compound as a white powder (3.56 g, 92%): 1H NMR (DMSO-d6) δ 0.83 (t, 3H), 1.50 (sextet, 2H), 2.58 (s, 3H), 2.62 (t, 2H), 5.36 (s, 2H), 6.75 (d, 1H), 7.49 (t, 1H), 7.59 (t, 1H), 7.67 (d, 1H), 7.71 (d, 1H), 7.82 (d, 1H), 7.96 (d, 1H), 8.04 (d, 1H), 8.06 (s, 1H), 8.41 (s, 1H), 10.49 (s, 1H), 12.85 (s, 1H), 13.00 (bs, 1H); MS (APCI-neg mode) m/z (rel intensity) 446 (100).

reactant | lithium hydroxide | 1N, 30 mL | [OH-].[Li+]
reactant | 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-benzoylamino]-benzoic acid methyl ester | 8.67 mmol, 4.00 g | COC(C1=CC(=CC=C1)NC(C1=CC(=CC=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O)=O | C27H27NO6
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-benzoylamino]-benzoic acid | 3.56 g, 92% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C(=O)NC=3C=C(C(=O)O)C=CC3)C=CC2)C=C1)CCC)O | C26H25NO6
